US07176310B1
24. [5-(4-Fluorophenylcarbamoyl)pyrimidin-2-yloxy]acetic acid 5-phenyl-pentyl ester
The titled compound was prepared from [5-(4-fluorophenylcarbamoyl)pyrimidin-2-yloxy]acetic acid using 5-phenyl-1-pentanol (56 mg, 0.34 mmol) as the coupling partner. Chromatography (gradient 5–95% ethyl acetate/hexane) through SiO2 yielded 6 mg (28%) of the titled compound. ESI-MS m/z 438 (MH+), 436 (M−H−).

reactant | [5-(4-fluorophenylcarbamoyl)pyrimidin-2-yloxy]acetic acid | FC1=CC=C(C=C1)NC(=O)C=1C=NC(=NC1)OCC(=O)O | C13H10FN3O4
reactant | 5-phenyl-1-pentanol | 0.34 mmol, 56 mg | C1(=CC=CC=C1)CCCCCO | C11H16O
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | [5-(4-Fluorophenylcarbamoyl)pyrimidin-2-yloxy]acetic acid 5-phenyl-pentyl ester | 6 mg, 28% | C1(=CC=CC=C1)CCCCCOC(COC1=NC=C(C=N1)C(NC1=CC=C(C=C1)F)=O)=O | C24H24FN3O4
